US06103708
4-{4-[2-(4-Bromo-benzyl)-4,5-dimethyl-furan-3-carbonyl]-2,6-diisopropyl-phenoxysulfonyl}-2-hydroxy-benzoic acid
The title compound was prepared according to the procedure in Example 4 using [2-(4-bromo-benzyl)-4,5-dimethyl-furan-3-yl]-(3,5-diisopropyl-4-hydroxy-phenyl)-methanone (1.30 g, 2.77 mmol) and 4-chlorosulphonyl-2-hydroxybenzoic acid (1.00 g, 4.22 mmol). Purification on Dynamax C18 (90% CH3CN/H2O) gave 0.98 g (53%) of the title compound as an off white solid, mp 165-168° C. 1H NMR (DMSO-d6) δ 1.05 (d, 12 H), 1.80 (s, 3 H), 2.19 (s, 3 H), 3.06 (septet, 2 H), 3.81 (s, 2 H), 6.92 (d, 2 H), 7.39 (dd, 2 H), 7.44 (s, 1 H), 7.45 (s, 2 H), 7.48 (d, 1 H), 8.05 (d, 1 H). IR (KBr) 3400,2950, 1680, 1375 and 1190 cm-1. mass spectrum (-ESI) m/z 667 (M-H). Anal. Calcd. for C33H33BrO8S: C, 59.20; H, 4.97; N, 0.00. Found: C, 59.18; H, 5.21; N, 0.08.

reactant | [2-(4-bromo-benzyl)-4,5-dimethyl-furan-3-yl]-(3,5-diisopropyl-4-hydroxy-phenyl)-methanone | 2.77 mmol, 1.30 g | BrC1=CC=C(CC=2OC(=C(C2C(=O)C2=CC(=C(C(=C2)C(C)C)O)C(C)C)C)C)C=C1 | C26H29BrO3
reactant | 4-chlorosulphonyl-2-hydroxybenzoic acid | 4.22 mmol, 1.00 g | ClS(=O)(=O)C1=CC(=C(C(=O)O)C=C1)O | C7H5ClO5S
product | 4-{4-[2-(4-Bromo-benzyl)-4,5-dimethyl-furan-3-carbonyl]-2,6-diisopropyl-phenoxysulfonyl}-2-hydroxy-benzoic acid | 0.98 g, 53% | BrC1=CC=C(CC=2OC(=C(C2C(=O)C2=CC(=C(OS(=O)(=O)C3=CC(=C(C(=O)O)C=C3)O)C(=C2)C(C)C)C(C)C)C)C)C=C1 | C33H33BrO8S
